US06114390
a) (R)-N5 -[Amino(nitroimino)methyl]-N2 -[(2-naphthyl)carbonyl]-ornithine
Prepared analogously to Example 4a) from (R)-N5 -[amino(nitroimino)methyl]-ornithine and 2-naphthoylchloride in a yield of 64% of theory. Colourless crystals which were used in the next step without further purification.

reactant | (R)-N5 -[amino(nitroimino)methyl]-ornithine | NC(NCCC[C@@H](N)C(=O)O)=N[N+](=O)[O-] | C6H13N5O4
reactant | 2-naphthoylchloride | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
product | (R)-N5 -[Amino(nitroimino)methyl]-N2 -[(2-naphthyl)carbonyl]-ornithine | yield of 64% | NC(NCCC[C@@H](NC(=O)C1=CC2=CC=CC=C2C=C1)C(=O)O)=N[N+](=O)[O-] | C17H19N5O5
